US06518423B1
1,3,5-Trimethyl-3-azabicyclo[3.3.1]nonan-9-one
To 1 l of a solution of 25 g of 2,6-dimethylcyclohexanone in acetic acid were added 13.5 g of methylamine hydrochloride and 32.4 g of formalin (37% aqueous solution) and the resulting mixture was heated to 100° C. for 2 hours. After removing the solvent under reduced pressure, the obtained residue was distributed between ethyl acetate and an aqueous solution of potassium carbonate. The organic layer was extracted and dried over anhydrous sodium sulfate. Then the residue was purified by silica gel column chromatography (eluting with ethyl acetate/n-hexane) to thereby give 19 g of the title compound as a colorless oily substance.

reactant | 2,6-dimethylcyclohexanone | 25 g | CC1C(C(CCC1)C)=O | C8H14O
reactant | methylamine hydrochloride | 13.5 g | Cl.CN
reactant | formalin | 32.4 g | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1,3,5-Trimethyl-3-azabicyclo[3.3.1]nonan-9-one | 19 g | CC12CN(CC(CCC1)(C2=O)C)C | C11H19NO
